US09233098B2
3. Preparation of methyl 2-[1-(4-aminobenzyl)-2-methyl-1H-indol-3-yl]acetate
Into a dry reaction vessel, methyl 2-[2-methyl-1-(4-nitrobenzyl)-1H-indol-3-yl]acetate (300 mg, 0.887 mmol) was added, and dissolved in 10 mL methanol. 10% Pd/C 20 mg was added, and reacted under hydrogen for 3 hours. After completion of the reaction, it was filtered. The filter cake was washed with methanol, and the filtrate was rotate evaporated to dryness to obtain a solid 260 mg, at a yield of 95.0%.

reactant | methyl 2-[2-methyl-1-(4-nitrobenzyl)-1H-indol-3-yl]acetate | 0.887 mmol, 300 mg | CC=1N(C2=CC=CC=C2C1CC(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C19H18N2O4
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | methyl 2-[1-(4-aminobenzyl)-2-methyl-1H-indol-3-yl]acetate | 260 mg, yield of 95.0% | NC1=CC=C(CN2C(=C(C3=CC=CC=C23)CC(=O)OC)C)C=C1 | C19H20N2O2
